US04373104
Following the procedure described in Example 19 but starting from 1.67 g. of α-(2-carboxyethyl)-mercapto-6,7-dimethoxy-3,4-dihydro-1-isoquinolyl-acetonitrile and 5 ml. of isoamyl alcohol, 1.7 g. of α-[2-(3-methyl-butoxycarbonyl)-ethyl]-mercapto-6,7-dimethoxy-3,4-dihydro-1-isoquinolyl-acetonitrile are obtained, melting at 120° C. after recrystallization from isopropanol.

reactant | α-(2-carboxyethyl)-mercapto-6,7-dimethoxy-3,4-dihydro-1-isoquinolyl-acetonitrile | C(=O)(O)CCC(C#N)(C1=NCCC2=CC(=C(C=C12)OC)OC)S | C16H18N2O4S
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | α-[2-(3-methyl-butoxycarbonyl)-ethyl]-mercapto-6,7-dimethoxy-3,4-dihydro-1-isoquinolyl-acetonitrile | CC(CCOC(=O)CCC(C#N)(C1=NCCC2=CC(=C(C=C12)OC)OC)S)C | C21H28N2O4S
